US08076125B2
(vii) Di-tert-butyl 5-(11-(2-nitrobenzyloxy)-11-oxoundecvloxy)isophthalate
Previously prepared di-tert-butyl 5-hydroxyisophthalate (0.597 g, 2.03 mmol) and previously prepared 2-nitrobenzyl 11-bromoundecanoate (1.62 g, 4.06 mmol) were combined and dissolved in acetone (50 mL), producing a light yellow solution. Potassium carbonate (0.505 g, 3.65 mmol) was added and the mixture was heated to reflux for 40 hours. The mixture was filtered using vacuum filtration, and the solvent was removed from the filtrate by rotovap. The crude product was purified with silica gel column chromatography with CH2Cl2: hexanes (v/v 5:1) as eluent to afford the product as a yellow oil, which was dried by vacuum. Yield: 0.152 g (12.2%). 1H-NMR (CDCl3) δ (ppm): 8.2 (s, 1H, Ar) 8.1 (d, 1H, Ar), 7.7 (s, 2H, Ar) 7.6 (t, 1H, Ar), 7.5 (d, 1H, Ar), 7.4 (t, 1H, Ar), 5.5 (s, 2H, O—CH2), 4.0 (t, 2H, CH2—O), 2.4 (t, 2H, CH2—C═O), 1.8 (m, 2H, CH2), 1.6 (m, 2H, CH2), 1.6 (s, 18H, CH3), 1.4 (m, 2H, CH2), 1.3 (m, 10H, CH2). 13C-NMR (CDCl3) δ (ppm): 173.5, 165.4, 159.3, 147.9, 134.1, 133.7, 132.7, 129.4, 129.1, 125.4, 122.9, 119.5, 81.9, 68.8, 63.1, 34.5, 29.9, 29.8, 29.7, 29.6, 29.5, 29.4, 28.5, 26.3, 25.3.

reactant | di-tert-butyl 5-hydroxyisophthalate | 2.03 mmol, 0.597 g | OC=1C=C(C=C(C(=O)OC(C)(C)C)C1)C(=O)OC(C)(C)C | C16H22O5
reactant | 2-nitrobenzyl 11-bromoundecanoate | 4.06 mmol, 1.62 g | BrCCCCCCCCCCC(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C18H26BrNO4
reactant | Potassium carbonate | 3.65 mmol, 0.505 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Di-tert-butyl 5-(11-(2-nitrobenzyloxy)-11-oxoundecvloxy)isophthalate | [N+](=O)([O-])C1=C(COC(CCCCCCCCCCOC=2C=C(C=C(C(=O)OC(C)(C)C)C2)C(=O)OC(C)(C)C)=O)C=CC=C1 | C34H47NO9
